US07432291B2
iv) 1-[2-(4-{2-[2-(E)-(4-Trifluoromethylsulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole
25 mg (1.00 mmol) 95% Sodium hydride were given to a solution of 219 mg (1.00 mmol) 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol in 5.0 ml DMF and stirred for 15 min. 304 mg (1.00 mmol) 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. overnight. After addition of 20 ml water the resulting precipitate was washed twice with 10 ml water, 2×10 ml methanol, diethyl ether and dried at 45° C. in vacuum. Yield 301 mg (60%) pale beige powder.

reactant | Sodium hydride | 1.00 mmol, 25 mg | [H-].[Na+]
reactant | 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol | 1.00 mmol, 219 mg | N1(N=NC=C1)CCOCC1=CC=C(C=C1)O | C11H13N3O2
reactant | 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole | 1.00 mmol, 304 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)SC(F)(F)F | C13H9ClF3NOS
reactant | water | 20 ml | O | H2O
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-{2-[2-(E)-(4-Trifluoromethylsulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole | FC(F)(F)SC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(COCCN2N=NC=C2)C=C1 | C24H21F3N4O3S
